US04243681
Reaction of the epichlorhydrin derivative of 2-(methylthio)phenol (14 g., 0.071 mole) with n-octylamine (9.04 g., 0.07 mole) according to the procedure of Example 2(b) and crystallization of the crude product from methanol-ether affords an 18% yield of analytically pure 1-[2-(methylthio)phenoxy]-3-(octylamino)-2-propanol hydrochloride, m.p. 105.5°-107.5° (corr.).

reactant | epichlorhydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 2-(methylthio)phenol | 0.071 mole, 14 g | CSC1=C(C=CC=C1)O | C7H8OS
reactant | n-octylamine | 0.07 mole, 9.04 g | C(CCCCCCC)N | C8H19N
product | 1-[2-(methylthio)phenoxy]-3-(octylamino)-2-propanol hydrochloride | 18% yield | Cl.CSC1=C(OCC(CNCCCCCCCC)O)C=CC=C1 | InChI=1S/C18H31NO2S.ClH/c1-3-4-5-6-7-10-13-19-14-16(20)15-21-17-11-8-9-12-18(17)22-2;/h8-9,11-12,16,19-20H,3-7,10,13-15H2,1-2H3;1H
